US05220018
3-Nitro-N-(methanesulfonyl)phenylcarboxamide
A solution of 3-nitrophenylcarboxamide (2 g) in 150 ml of dry tetrahydrofuran was cooled to 0° C. and treated with 609 mg of sodium hydride (60% oil dispersion). The reaction mixture was stirred for 20 minutes and then methanesulfonylchloride (1.18 ml) was introduced dropwise via syringe. After 5 minutes the reaction mixture became homogeneous and was warmed to room temperature and stirred overnight. The reaction mixture was diluted with 300 ml of ethyl acetate and was washed with brine. The organic extracts were dried, concentrated in vacuo, and the residue was chromatographed on silica gel (ethyl acetate then chloroform-methanol, 95:5 v/v) to yield 1.6 g of the title compound in pure form.

reactant | 3-nitrophenylcarboxamide | 2 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)N | C7H6N2O3
reactant | sodium hydride | 609 mg | [H-].[Na+]
reactant | methanesulfonylchloride | 1.18 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 3-Nitro-N-(methanesulfonyl)phenylcarboxamide | 1.6 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)NS(=O)(=O)C | C8H8N2O5S
